US05840751
5,6-Dihydro-4-hydroxy-6-(2-methylpropyl)-6-phenyl-2H-pyran-2-one (±)
The title compound was prepared as described in General Method 1 using 12 g methyl acetoacetate, 4.3 g of NaH 60% dispersion in oil, 64.5 mL of 1.6M n-butyl lithium in hexane, 10 g of iso-valerophenone, and 300 mL of tetrahydrofuran. After addition of the phenone, the reaction was stirred 15 minutes at -78° C. and 2 hours at room temperature. The crude reaction was flash chromatographed using hexane/ethyl acetate 6/40-40/60 as eluent. The solid was triturated from diethyl ether (m.p. 123.5°-125° C.). 1H NMR (CDCl3) δ 0.81 (d, 3 H), 0.89 (d, 3 H), 1.6-1.7 (M, 1 H), 1.91 (m, 2 H), 2.90 (d, 1 H), 2.95 (d, 1 H), 3.25 (d, 1 H), 3.35 (d, 1 H), 7.25-7.45 (m, 5 H).

reactant | methyl acetoacetate | 12 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | NaH | 4.3 g | [H-].[Na+]
reactant | n-butyl lithium | 1.6M, 64.5 mL | C(CCC)[Li]
reactant | iso-valerophenone | 10 g | C(CC(C)C)(=O)C1=CC=CC=C1 | C11H14O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | 5,6-Dihydro-4-hydroxy-6-(2-methylpropyl)-6-phenyl-2H-pyran-2-one | OC1=CC(OC(C1)(C1=CC=CC=C1)CC(C)C)=O | C15H18O3
